US04775753
Diethylamine (153 g) is added to a solution, maintained at 20° C., of (R)-2-chloropropionyl chloride (87.7 g) in chloroform (600 cc), in the course of 1 hour. The reaction mixture is washed with distilled water (500 cc), with an aqueous 1N hydrochloric acid solution (3×500 cc) and then with distilled water (500 cc). The organic phase is dried over sodium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the vicinity of 30° C. The residue obtained is distilled under reduced pressure (17 Pa). (R)-N,N-Diethyl-2-chloropropionamide (43 g) in the form of a colourless oil [b.p.17Pa =75°-80° C.; [α]D20 =-43.3° (c=10; CHCl3)] is thereby obtained.

reactant | Diethylamine | 153 g | C(C)NCC | C4H11N
reactant | (R)-2-chloropropionyl chloride | 87.7 g | Cl[C@@H](C(=O)Cl)C | C3H4Cl2O
solvent | chloroform | 600 cc | C(Cl)(Cl)Cl | CHCl3
product | (R)-N,N-Diethyl-2-chloropropionamide | 43 g | C(C)N(C([C@@H](C)Cl)=O)CC | C7H14ClNO
